US07977358B2
A] (3-Methoxy-5-trifluoromethyl-phenyl)-hydrazine
Following the procedure described in Journal of Organic Chemistry (1972), 37(18), 2849-53, 0.5 g (2.62 mmol) of 3-methoxy-5-trifluoromethyl-phenylamine was suspended in 4.6 ml of 25% aqueous HCl, cooled (0° C.) and carefully treated (without exceeding 10° C.) with 0.189 g (2.75 mmol) of sodium nitrite dissolved in 2.7 ml of water. The solution was stirred for 1 h at this temperature and 30 min at RT. Then, 2.48 g (13.08 mmol) of tin(II) chloride in 2.5 ml of 25% aqueous HCl were dropped carefully to the cooled (0° C.) solution and stirred for 1 h. The reaction was neutralized and basified with 32% aqueous NaOH (pH14), partitioned three times between CH2Cl2 and water. The organic phase was dried over Na2SO4 and evaporated to give 0.50 g (93%) of the title compound as a yellow solid. MS: 206.8 (MH+).

reactant | 3-methoxy-5-trifluoromethyl-phenylamine | 2.62 mmol, 0.5 g | COC=1C=C(C=C(C1)C(F)(F)F)N | C8H8F3NO
reactant | sodium nitrite | 2.75 mmol, 0.189 g | N(=O)[O-].[Na+]
reactant | tin(II) chloride | 13.08 mmol, 2.48 g | [Sn](Cl)Cl
reactant | NaOH | pH14 | [OH-].[Na+]
solvent | HCl | 4.6 ml | Cl | ClH
solvent | water | 2.7 ml | O | H2O
solvent | HCl | 2.5 ml | Cl | ClH
product | (3-Methoxy-5-trifluoromethyl-phenyl)-hydrazine | 0.50 g, 93% | COC=1C=C(C=C(C1)C(F)(F)F)NN | C8H9F3N2O
